data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
753,815,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[C:16][C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]=[C:16]2[C:17]([CH3:18])=[O:19],water,298.15,17.737704552508927,-45.83874578750979
4624,5271,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:22](=[O:23])[O:24][CH3:25])[O:14][CH:15]2[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,6.1226584670545305,-31.47759550819368
3221,3637,[CH3:10][C:11]([CH3:12])=[O+:13][N-:14][C:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([C:15]#[N:16])[O:13][C:11]1([CH3:10])[CH3:12],water,298.15,24.40933884082116,-12.240949568575347
3478,3962,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[N:7]#[C:8][C:9]#[N+:10][C-:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:12]#[N:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:10]=[C:9]1[C:8]#[N:7],water,298.15,13.778687565938853,-41.14433250458081
2935,3273,[CH2:1]=[CH2:2].[CH3:3][N-:4][N+:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1>>[CH2:1]1[CH2:2][N:4]([CH3:3])[N:5]=[C:6]1[c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1,water,298.15,14.73992556177352,-48.44898406962292
3261,3684,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[N-:7][O+:8]=[C:9]([C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH2:1]1[CH2:2][N:7]([C:5]([O:4][CH3:3])=[O:6])[O:8][C:9]1([C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16],water,298.15,9.492702081841813,-58.14522183399253
1196,1300,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[n+:24]1[CH3:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]1([C:14]([CH3:13])=[O:15])[O:17][C:18](=[O:19])[C:20]3([C:21]([CH3:22])=[O:23])[N:24]1[CH3:25],water,298.15,25.066723173241574,-11.892122779444112
239,262,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([CH3:13])[N+:14]#[N:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])([CH3:13])[N:14]=[N:15]1,water,298.15,24.40408513409216,-33.60576267279491
2264,2509,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[N-:24][NH+:25]=[C:26]([C:27]#[N:28])[C:29](=[O:30])[O:31][CH3:32]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]#[N:28])([C:29](=[O:30])[O:31][CH3:32])[NH:25][N:24]2[C:22]([NH:21][CH3:20])=[O:23],water,298.15,14.382299486721044,-37.92712343504952
4454,5086,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([O+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19])[C:20](=[O:21])[NH:22][CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:20](=[O:21])[NH:22][CH3:23])[O:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,3.445212297306812,-53.2252194561154
3192,3603,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[N:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]=[N:17]2,water,298.15,29.601624654857268,0.3926823575124659
824,893,[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[N:16]=[C:15]1[C:13]([NH:12][CH3:11])=[O:14],water,298.15,20.39368351915652,-53.10543610156273
1563,1729,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3]([Cl:4])=[C:5]([O:6][CH3:7])[O:8][CH3:9]>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]([O:6][CH3:7])([O:8][CH3:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23]([CH3:24])=[O:25])[NH:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,26.80132471615329,-8.173530097609245
